US06855713B2
f) 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid-[4-(3-phenyl-allyl)-piperazinyl]-amide
0.4 g of 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid (1.3 mmol), 4-(3-phenyl-allyl)-piperazine (0.26 g, 1.3 mmol) and 0.4 ml of triethylamine are dissolved in 8 ml of dimethylformamide. 0.54 g of O-(Benzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium-tetrafluoroborate (═TBTU; 1.7 mmol) are added and stirred for 24 h at room temperature. After diluting with 20 ml of ethyl acetate, it is washed with saturated, aqueous sodium bicarbonate solution and with water, and dried over sodium sulphate. The solvent is boiled down and the product purified chromatographically (silica gel; gradient; acetic ester/methanol 100% in 60% acetic ester). Yield: 0.52 g (80%); yellow oil.

reactant | 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid | 1.3 mmol, 0.4 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)C(=O)O | C18H15N3O2
reactant | 4-(3-phenyl-allyl)-piperazine | 1.3 mmol, 0.26 g | C1(=CC=CC=C1)C=CCN1CCNCC1 | C13H18N2
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | O-(Benzotriazole-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 1.7 mmol, 0.54 g | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[B-](F)(F)F
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid-[4-(3-phenyl-allyl)-piperazinyl]-amide | C1(=CC=CC=C1)C=CCN1CCN(CC1)NC(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1 | C31H32N6O
